US07795448B2
1,1-Dimethylethyl [(1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-({4-[8-(1-hydroxyethyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)ethyl]carbamate
A mixture of 1,1-dimethylethyl {(1S)-2-{4-(bromoacetyl)phenyl]-1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]ethyl}carbamate (1.90 g, 3.79 mmol), 1-(2-amino-3-pyridinyl)ethanol (0.523 g, 3.79 mmol), and solid sodium bicarbonate (0.398 g, 4.72 mmol) in isopropanol (24 mL) was refluxed for 3.0 h. and concentrated in vacuo. The residue was dissolved in ethyl acetate, washed with water and saturated sodium chloride, dried (Na2SO4), and concentrated to give the title compound (1.79 g, 87%) as a light pink solid. MS (ES+) m/e 541 [M+H]+.

reactant | 1,1-dimethylethyl {(1S)-2-{4-(bromoacetyl)phenyl]-1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]ethyl}carbamate | 3.79 mmol, 1.90 g | BrCC(=O)C1=CC=C(C=C1)C[C@@H](CN1C(C2=CC=CC=C2C1=O)=O)NC(OC(C)(C)C)=O | C24H25BrN2O5
reactant | 1-(2-amino-3-pyridinyl)ethanol | 3.79 mmol, 0.523 g | NC1=NC=CC=C1C(C)O | C7H10N2O
reactant | sodium bicarbonate | 4.72 mmol, 0.398 g | C([O-])(O)=O.[Na+]
solvent | isopropanol | 24 mL | C(C)(C)O | C3H8O
product | 1,1-Dimethylethyl [(1S)-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1-({4-[8-(1-hydroxyethyl)imidazo[1,2-a]pyridin-2-yl]phenyl}methyl)ethyl]carbamate | 1.79 g, 87% | O=C1N(C(C2=CC=CC=C12)=O)C[C@H](CC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C(C)O)C1)NC(OC(C)(C)C)=O | C31H32N4O5
